Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Amoxicillin / Augmentin
 
Attending: ___.
 
Chief Complaint:
MS change, ICU admission for septic shock

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ with hx of ___ Disease (nonverbal at baseline but 
responds well with soft voice), chronic aspiration with h/o 
aspiration PNA and J-tube placement now NPO, chronic foley for 
neurogenic bladder, CAD, transferred from nursing home to 
___ (?___) for AMS and decreased UOP 
with 50-80cc/day.  At ___, her BP was noted to be 
130s-140s. WBC 24, dx'd with UTI, got vanc 1G at ___ and cipro 
400mg at ___. Foley was changed. Creatine 3.2, trop 0.12-> got 
ASA. CXR and CT head neg. She was transferred here because she 
gets care here. 
.
She was admitted from ___ last for MS change and treated 
for HCP/aspiration pneumonia.
.
In the ED, conversation was had with brother ___ 
___, who confirmed that his sister is DNR/DNI, would 
not want pressors/central line but would want antibiotics and 
fluids.
.
CXR in the ED showed pacemaker in place, low lung volumes, 
slight increase in perivascular congestion without effusion or 
consolidation. EKG showed V-paced. Head CT showed no acute 
process. 
.  
In the ED, initial vs were: 98, 84, 112/87, 20, 90/3L. UOP was 
275cc/6 hours.
Tox screen was negative.
UA showed >182 WBC, large lek and blood, mod bacteria. Lactate 
was 1.8 from 4 initially. Electolytes showed K 3.9, Creatinine 
3.2, BUN 74. WBC was 33 with N90, Band 1, Hct 34.1. Alb was 3.1.
Patient was given 4L NS for SBPs in ___. She was also given 
rectal tylenol.
VS on transfer were 65, 83/39, 23, 100/2L. She has 2 20G PIV.
.
On the floor, she is comfortable appearing. She is at first only 
arousable to touch/sternal rub and then later has become 
arousable to voice.

 
Past Medical History:
PD(non verbal)
foley for neurogenic bladder
chronic RLE cellulitits
CAD, MI ___
s/p G-tube placement for chronic aspiration - all nutrition is
per G-tube, but takes some medications crushed PO.
CHF, TTE with NL EF in ___ 
s/p pacemaker
Raynaud's disease  
Sleep apnea  
Melanoma - s/p lymph node resection in her right leg, with
chronic edema and decreased range of motion of that leg. ___ 
years ago per her brother.
___ syndrome
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Vitals: 96.9, 63, 25, 102/39, sat 99/RA 
General: NARD, opens eyes to voice and states "OK" and "ouch"
HEENT: Sclera anicteric, dry MM, oropharynx clear  
Neck: supple, JVP not elevated  
Lungs: upper airward congestion
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, RLQ and LLQ TTP, non-distended, bowel sounds 
present, no rebound tenderness or guarding, no organomegaly  
GU: foley in place with dark urine
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
 
Pertinent Results:
___ 11:15PM BLOOD WBC-33.3*# RBC-3.87* Hgb-11.9* Hct-34.1* 
MCV-88 MCH-30.7 MCHC-34.9 RDW-16.2* Plt ___
___ 11:15PM BLOOD Neuts-90* Bands-1 Lymphs-4* Monos-5 Eos-0 
Baso-0 ___ Myelos-0
___:15PM BLOOD Glucose-108* UreaN-74* Creat-3.2*# Na-138 
K-3.9 Cl-100 HCO3-21* AnGap-21*
___ 05:06AM BLOOD Glucose-70 UreaN-58* Creat-1.5* Na-142 
K-3.9 Cl-110* HCO3-21* AnGap-15
___ 11:15PM BLOOD CK-MB-3 cTropnT-0.13*
___ 01:20PM BLOOD CK-MB-3 cTropnT-0.05*

Radiology Report CT HEAD W/O CONTRAST 

FINDINGS: There is no evidence of acute hemorrhage, large acute 
territorial 
infarction or large masses. There is a hypodensity in the right 
basal 
ganglia, 2:17, likely old ischemic event, unchanged. Ventricles 
and sulci are 
prominent, likely age related. There is no shift of midline 
structures.  
There is improved appearance of the paranasal sinuses and 
resolution of 
previously seen opacity on ___. There is mucosal 
thickening in the 
ethmoid air cells. The mastoid air cells appear well 
pneumatized. The 
osseous structures appear within normal limits. 
  
IMPRESSION: No acute intracranial process. 

Radiology Report PORTABLE ABDOMEN ___ 8:14 AM
IMPRESSION: Non obstructive bowel gas pattern with no evidence 
for free air.

   URINE CULTURE (Final ___: 
      Culture workup discontinued. Further incubation showed 
contamination
      with mixed skin/genital flora. Clinical significance of 
isolate(s)
      uncertain. Interpret with caution. 
      PROTEUS MIRABILIS.    >100,000 ORGANISMS/ML.. 
         Piperacillin/tazobactam sensitivity testing available 
on request. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PROTEUS MIRABILIS
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------   0.5 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

 
Brief Hospital Course:
___ with hx of PD, chronic aspiration with h/o aspiration PNA 
and J-tube placement now NPO, chronic foley for neurogenic 
bladder, CAD, admitted for MS changes and septic shock, likely 
secondary to urosepsis. Sepsis resolved within a day with 
antibiotics and fluids.  Sensitivity came back with 
.
Active Isssue:
# septic shock: Patient transferred from nursing home to ___ 
___ with decreased level of alertness and decreased urine 
output for ___ hours.  Found to have leukocytosis, acute renal 
failure with creat 2.3 up from 0.5. Given antibiotics and 
transferred to ___ for further care. In ED, Creat up to 3.2. 
Given 4 L of fluid with some improvement in blood pressure which 
had dropped to ___ systolic.  Troponin elevated. Patient 
transferred to MICU for further care. In MICU O2 sats in ___ 
without supplemental oxygen. BP was 100-105 systolic initially. 
With fluids stopped, BP dropped within one hour to 90 systolic. 
Mental status improved from ED; patient now able to answer a few 
questions. Blood nd urine cultures drawn. Treated with cefepime 
and vancomycin. Patient currently stable and afebrile with good 
urine output.  Cause of sepsis most likely infectious given 
leukocytosis and positive UA.  Differential less likely GI 
source though is tender on exam, and CXR without clear 
infiltrate. KUB shows no signs of obstruction. Cardiac etiology 
may contribute to hypotension given elevated troponin (0.12) at 
OSH. Trop here down to 0.05. EKG without changes but V-paced. 
OSH cultures negative.  Urine culture here was noted have 
PROTEUS MIRABILIS that was very sensitive.  She was started on 
Bactrim via J-Tube due to concern for poor bioavailibility of 
cephalosporins (as need to be converted to active form in small 
intestins).  She improved and was discharged in stable 
condition. 

# Metabolic Encephalopathy: Patient trasferred from nurcing home 
for decreased alertness and responsiveness. Patient returned to 
baseline with fluids, antibiotics, and resumption of ___ 
medications.  Was likely due to infection versus uremia. Head CT 
negative.  Patient returned to baseline after treatment of her 
infection. 

# acute renal failure: patient admitted with a Cr of 3.2. 
Improved to Cr 1.5 (from ___ yesterday, baseline 0.5) with fluid 
administration.  lytes WNL. FeNA=1.02%

# troponin elevation: Elevated to 0.12 at OSH in setting of 
renal failure. Trop today 0.05. 

# ___ Disease with dementia: Patient was worse than 
baseline on admission, but improved with home regimen.  She was 
continued on outpatient regimen of Sinemet.  Continued on 
ropinirole 4 mg TID and entacapone 200 mg 4x daily

# coronary artery disease: cardiac enzymes trending down. Trop 
0.05 (from 0.12 at OSH). Aspirin and simvastatin conitnued. Home 
lasix held in setting of renal failure.  This was restarted at 
the time of discharge. 

# Preexisting Unstageable Sacral Decubitus ulcer: not worsened 
during time in MICU or on the floor. 

# RLE lymphadema: Chronic ___ lymph node dissection (melanoma). 
Leg kept elevated on admission.

# Chronic Stable Asthma: Home nebs continued

# Rhinitis: Continued home regimen, given fluticasone 50 mcg 
nasal sprays daily, given ipratropium 1 neb IH Q8h. 

# FEN: Tube feeds initially held, but resumed once sepsis was 
resolved. 

# Code: DNR/DNI, no pressors (confirmed with HCP in HPI)  

Transitional Issue:
1. continue Bactrim DS BID for 10 more days
2. held seraquel 25mg in the morning, recommend to reassess the 
need for this medication. 
3. please continue all other medications same as prior to 
hospitalization. 
4. need to follow up with her PCP as an outpatient in the next 
week. 
 
 
Medications on Admission:
Jevity 1.5 cal @ 50ml/hr with 25ml flush, auto free water X 24H 
via Gtube, 100ml extra flush every shift
30ml water flush between administration of each med via Gtube
-cyancobalamin 1000mncg IM monthly on the ___
- polyethylene glycol daily 17gm packet
-Bisacodyl 10mg suppository daily
-Aspirin 81mg daily
- Docusate 200mg daily
- Furosemide 20mg daily
- Fluticasone 50mcg 2 sprays daily
- multi-deylin SF AF liquid 15 cc via GT daily
-cardiodopa/levodopa ___, 3 half tablets via G tube at 1pm
-cardiodopa/levodopa ___ rapid release, 1 tablets SL twice 
a day at 11am and 4pm
-cardiodopa/levodopa ___, 2 half tab via g-tube four times 
a day: q6am, q10am, q11am, q8pm
- artifical tears TID
- ropinirole 4mg TID
- Eryped 400mg /5Ml susp, 6.25 mls via G tube Q6H (500mg)
- Comtan 200mg four times a day (entacapone)
- Simvastatin 30mg QHS
- Ipratropium neb TID
-guiatussen 10mls (100mg/5ml) G tube Q4H prn cough
-maalox regular, 30 cc Q4H prn gastric discomfort
- Nivto 0.3mg tab prn
- Senna 8.8mg/5ml 10ML BID prn constipation
- seroquel 25mg Qam
- Seroquel 50mg QHS
- 100ml water via Gtube Q8H
- lidoderm 5%, to right buttocks 12H on and off
- tylenol ___, 2 tabs Q6H prn

 
Discharge Medications:
1. cyanocobalamin (vitamin B-12) 1,000 mcg/mL Solution Sig: One 
(1) IM Injection once a month: on the ___.  
2. polyethylene glycol 3350 17 gram Powder in Packet Sig: One 
(1) pack PO once a day.  
3. bisacodyl 10 mg Suppository Sig: One (1) tab Rectal once a 
day.  
4. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
5. docusate sodium 100 mg Tablet Sig: Two (2) Tablet PO once a 
day.  
6. furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. fluticasone 50 mcg/Actuation Spray, Suspension Sig: Two (2) 
Spray Nasal DAILY (Daily).  
8. multi-deylin SF AF liquid   Sig: Fifteen (15) cc  at bedtime: 
via GT tube.  
9. carbidopa-levodopa ___ mg Tablet Sig: 1.5 Tablets PO Q1PM 
().  
10. carbidopa-levodopa ___ mg Tablet Sig: Two (2) Tablet PO 
Q4PM ().  
11. carbidopa-levodopa ___ mg Tablet Sig: One (1) Tablet PO 
QID (4 times a day): give at 6AM, 10AM, 11AM, 8PM  .  
12. polyvinyl alcohol-povidone 1.4-0.6 % Dropperette Sig: ___ 
Drops Ophthalmic TID (3 times a day).  
13. ropinirole 1 mg Tablet Sig: Four (4) Tablet PO TID (3 times 
a day).  
14. EryPed 400 400 mg/5 mL Suspension for Reconstitution Sig: 
6.25 ml PO every six (6) hours.  
15. entacapone 200 mg Tablet Sig: One (1) Tablet PO QID (4 times 
a day).  
16. simvastatin 10 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
17. ipratropium bromide 0.02 % Solution Sig: One (1) neb 
Inhalation Q8H (every 8 hours).  
18. Guaifenesin NR 100 mg/5 mL Liquid Sig: One (1)  PO every 
four (4) hours as needed for cough.  
19. Maalox Maximum Strength 400-400-40 mg/5 mL Suspension Sig: 
One (1)  PO every four (4) hours as needed for indigestion.  
20. quetiapine 50 mg Tablet Sig: One (1) Tablet PO QHS (once a 
day (at bedtime)).  
21. acetaminophen 650 mg Suppository Sig: One (1) Suppository 
Rectal Q6H (every 6 hours) as needed for fever.  
22. free water
100ml water via Gtube Q8H

23. pain control
lidoderm 5%, to right buttocks 12H on and off

24. sulfamethoxazole-trimethoprim 800-160 mg Tablet Sig: One (1) 
Tablet PO BID (2 times a day) for 10 days.
Disp:*20 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Primary: 
Sepsis due to urinary tract infection 
 
Secondary: 
acute renal insufficiency 
___ dementia 
Rhinitis 
Reactive Airway disease 
Unstageable Sacral Decubitus ulcer 
coronary artery disease 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear ___:

It was a pleasure taking care of you.  You came to the hospital 
with very severe urinary tract infection that resulted in 
extreme low blood pressure.  You were treated in the intensive 
care unit for worsening symptoms of shock.  You were placed on 
apropriate antibiotics and you improved appropriately.  You were 
discharged in stable condition with antibiotics.  

Please note, we made the following changes to your medications. 

STARTED:
Sulfameth/Trimethoprim DS 1 TAB PO/NG BID for the next ___ days

STOPPED: 
seroquel 25mg PO every am. 

Please follow up with the following doctors, see below. 
 
Followup Instructions:
___